US05840732
i) Synthesis of 5-butylidene-3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione
To a solution of 1.88 g (5.0 mmol) of 3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione and 0.45 ml (5.0 mmol) of n-butyraldehyde in 20 ml of ethanol, 0.05 ml (0.5 mmol) of piperidine was added, followed by refluxing for 2 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/2) to yield 2.14 g (99.2%, yellow oily substance) of the desired product.

reactant | 3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione | 5.0 mmol, 1.88 g | C(C)OC(=O)C=1N=C2N(C=CC=C2OCCCCN2C(SCC2=O)=O)C1 | C17H19N3O5S
reactant | n-butyraldehyde | 5.0 mmol, 0.45 ml | C(CCC)=O | C4H8O
reactant | piperidine | 0.5 mmol, 0.05 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-butylidene-3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C(=O)OCC)=O | C21H25N3O5S
